US09216999B2
trans-N,4-Dimethoxy-N-methylcyclohexanecarboxamide
trans-4-Hydroxy-N-methoxy-N-methylcyclohexanecarboxamide (536 mg, 2.86 mmol) in N,N-dimethylformamide (5 mL) was mixed with sodium hydride (55 wt % dispersion in mineral oil, 150 mg, 3.44 mmol) and methyl iodide (214 μL, 3.44 mmol) under cooling with ice and stirred for 3 hours while the temperature was gradually raised to room temperature. After addition of water, the reaction mixture was extracted with ethyl acetate, and the organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/2→1/1 (v/v)) to give the title compound as a colorless oil (556 mg, yield 97%).

reactant | trans-4-Hydroxy-N-methoxy-N-methylcyclohexanecarboxamide | 2.86 mmol, 536 mg | O[C@@H]1CC[C@H](CC1)C(=O)N(C)OC | C9H17NO3
reactant | sodium hydride | 3.44 mmol, 150 mg | [H-].[Na+]
reactant | methyl iodide | 3.44 mmol, 214 μL | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | trans-N,4-Dimethoxy-N-methylcyclohexanecarboxamide | 556 mg, yield 97% | CON(C(=O)[C@@H]1CC[C@H](CC1)OC)C | C10H19NO3
